US04849528
(b) Production of 4-benzyloxy-3-pyrrolin-2-on-1-yl acetamide
25.0 g of 4-benzyloxy-3-pyrrolin-2-on-1-yl acetic acid benzyl ester was dissolved in 500 ml of methanol and stirred at 40° C. with passing of gaseous NH3 for 5 hours. Then the reaction solution was evaporated and the residue was mixed with 50 ml of acetone. The precipitated crystals were filtered by suction and dried. 15.2 g of TLC pure product with a melting point of 174.5° to 175.5° C. was obtained. For the product:

reactant | 4-benzyloxy-3-pyrrolin-2-on-1-yl acetic acid benzyl ester | 25.0 g | C(C1=CC=CC=C1)OC(CN1C(C=C(C1)OCC1=CC=CC=C1)=O)=O | C20H19NO4
reactant | NH3 | N | H3N
solvent | methanol | 500 ml | CO | CH4O
product | 4-benzyloxy-3-pyrrolin-2-on-1-yl acetamide | C(C1=CC=CC=C1)OC1=CC(N(C1)CC(=O)N)=O | C13H14N2O3
